US09375009B2
[(Propan-2-ylideneamino)oxy]acetic acid (IV-1)
A mixture of (aminooxy)acetic acid hemihydrochloride (2.51 g) and acetone (6.0 g) was stirred at room temperature for 64 hours. Subsequently, dichloromethan (10 ml) was added to the mixture. Thereafter, the solvent and the excess reagent were removed under reduced pressure. This gave [(propan-2-ylideneamino)oxy]acetic acid (3.1 g), which was converted further without further purification.

reactant | (aminooxy)acetic acid hemihydrochloride | 2.51 g | Cl.NOCC(=O)O.NOCC(=O)O
reactant | acetone | 6.0 g | CC(=O)C | C3H6O
solvent | dichloromethan | 10 ml | ClCCl | CH2Cl2
product | [(Propan-2-ylideneamino)oxy]acetic acid | CC(C)=NOCC(=O)O | C5H9NO3
